US07452892B2
B. Preparation of 4-(4-chlorophenyl)-6-hydrazinylpyrimidine
To a stirred solution of 4-chloro-6-(4-chlorophenyl)pyrimidine (1.25 g, 5.6 mmol) in THF (10 mL) at room temperature under argon was added H2NNH2 (538 mg, 16.8 mmol). The reaction mixture was heated at 60° C. under argon for 2 h. Analysis by HPLC/MS indicated that the reaction was complete. About three fourths of the solvent was evaporated and Et2O (5 mL) was added to the resulting suspension. After stirring at room temperature for 20 min, solid was collected by filtration and further washed with Et2O (15 mL), then dried under vacuum to obtain 831 mg of the title compound as a white solid. HPLC/MS: retention time=1.88 min, [M+H]30 =221.

reactant | 4-chloro-6-(4-chlorophenyl)pyrimidine | 5.6 mmol, 1.25 g | ClC1=NC=NC(=C1)C1=CC=C(C=C1)Cl | C10H6Cl2N2
reactant | H2NNH2 | 16.8 mmol, 538 mg | NN | H4N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(4-chlorophenyl)-6-hydrazinylpyrimidine | 831 mg | ClC1=CC=C(C=C1)C1=NC=NC(=C1)NN | C10H9ClN4
